US09427501B2
Saturated Coating Composition with Toluene/THF/Isopropyl Alcohol Solvent
Estradiol was combined with THF. Polyethylenevinylacetate (PEVA), and poly-n-butyl methacrylate (PBMA) was combined with a solution containing eight parts toluene and one part isopropyl alcohol. The estradiol solution was combined with the PEVA/PBMA solution to form a coating solution containing equal weight proportions of estradiol, PEVA, and PBMA and a solvent containing 80% toluene, 10% THF, and 10% isopropyl alcohol, with a total solids concentration of 40 mg/ml (33% PEVA/33% PBMA/33% estradiol). The resulting solution was approximately at the saturation point for estradiol in a solvent of 80% toluene, 10% THF, and 10% isopropyl alcohol at ambient temperature (approximately 21-22° C.).

reactant | Estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | THF | C1CCOC1 | C4H8O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | Toluene THF Isopropyl Alcohol | C1(=CC=CC=C1)C.C1CCOC1.C(C)(C)O | InChI=1S/C7H8.C4H8O.C3H8O/c1-7-5-3-2-4-6-7;1-2-4-5-3-1;1-3(2)4/h2-6H,1H3;1-4H2;3-4H,1-2H3
